US06313071B1
To a suspension of 10.0 g of 3-bromobenzylamine hydrochloride in chloroform (100 ml), 9.55 g of triethylamine was added at room temperature. To this solution, 4.67 g of methyl chloroformate was dropwise added under cooling with ice, followed by stirring at room temperature for 2 hours. The reaction solution was poured into a sodium chloride aqueous solution, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 9.54 g of methyl N-(3-bromobenzyl)carbamate as white crystals.

reactant | 3-bromobenzylamine hydrochloride | 10.0 g | Cl.BrC=1C=C(CN)C=CC1
reactant | triethylamine | 9.55 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 4.67 g | ClC(=O)OC | C2H3ClO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl N-(3-bromobenzyl)carbamate | 9.54 g | BrC=1C=C(CNC(OC)=O)C=CC1 | C9H10BrNO2
